US06380387B1
To a suspension of N-[(2-chloro-6-ethylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester (0.33 mmol, 164 mg) in ethanol (2 mL) was added aqueous 1.0 N sodium hydroxide (0.7 mL) at room temperature. The mixture was stirred for 3 h at room temperature. The ethanol was removed under reduced pressure and the residue was diluted with water (30 mL). The aqueous solution was washed with diethyl ether (30 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted into ethyl acetate (2×35 mL). The combined organic extracts were washed with brine solution (50 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the filtrate afforded 138 mg (87% yield) of N-[(2-chloro-6-ethylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine as a white solid: mp 187-190° C. ES-HRMS m/e calcd for C25H26ClN3O5 (M+Na) 506.1459, found 506.1455.

reactant | N-[(2-chloro-6-ethylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 0.33 mmol, 164 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1CC)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C26H28ClN3O5
reactant | sodium hydroxide | 1.0 N, 0.7 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[(2-chloro-6-ethylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 138 mg, 87% yield | ClC1=C(C(=CC=C1)CC)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C25H26ClN3O5
